US07091214B2
A solution of 1-(7-bromo-3-nitroquinolin-4-ylamino)-2-methylpropan-2-ol (27.78 g, 81.66 mmol) in acetonitrile (1.2 L) was added to a Parr vessel charged with 5% platinum on carbon (0.84 g), and the reaction was placed under hydrogen pressure (50 psi, 3.4×105 Pa) for two days. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with ethanol (1 L). The filtrate was concentrated under reduced pressure to provide 21.70 g of 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol as a yellow oil.

reactant | 1-(7-bromo-3-nitroquinolin-4-ylamino)-2-methylpropan-2-ol | 81.66 mmol, 27.78 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(O)C | C13H14BrN3O3
solvent | acetonitrile | 1.2 L | C(C)#N | C2H3N
catalyst | platinum on carbon | 0.84 g | [Pt] | Pt
product | 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol | 21.70 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)Br | C13H16BrN3O
